US06858627B2
A mixture of 800 mg of 6-(2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline and 90 mL of acetonitrile was treated with 510 mg of N-bromosuccinimide (NBS) at −20° C. for 2 minutes. The reaction was quenched with water and extracted with EtOAc three times. The organic layers were combined and washed with 10% aqueous sodium thiosulfate (Na2S2O3) solution, water, and brine and then dried over magnesium sulfate. The residue was purified by flash chromatography to yield 776 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline as a solid.

reactant | 6-(2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 800 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)C | C19H21NO
reactant | N-bromosuccinimide | 510 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 776 mg | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
